US05488140
12.7 g (30.2 mmol) of ethyl 6-acetoxy-2(R)-formylamino-4-diisopropylphosphonomethyl-hex-3-enoate are dissolved in 100 ml of abs. CH2Cl2 and 15.6 ml (120.8 mmol) of trimethylbromosilane are added to this solution at room temperature. The reaction mixture is allowed to stand for 24 hours at room temperature. After addition of 100 ml of abs. ethanol the reaction mixture is again allowed to stand for 24 hours at room temperature and then concentrated by evaporation. The residue is dissolved in ethanol and then a mixture of 100 ml of propylene oxide and 100 ml of ethanol is added dropwise. The suspension so obtained is stirred for 1 hour at 0° C. and then filtered with suction. The filter product is stirred overnight in ether and again filtered with suction. The filter product is dried, giving white crystals of ethyl 2(R)-amino-6-hydroxy-4-phosphonomethyl-hex-3-enoate. Melting point: 170° C. (decomp.). ee=92%; αD =-45.6°± 1° (c=1.0 H2O).

reactant | ethyl 6-acetoxy-2(R)-formylamino-4-diisopropylphosphonomethyl-hex-3-enoate | 30.2 mmol, 12.7 g | C(C)(=O)OCCC(=C[C@H](C(=O)OCC)NC=O)CP(=O)(OC(C)C)OC(C)C | C18H32NO8P
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | trimethylbromosilane | 120.8 mmol, 15.6 ml | C[Si](Br)(C)C | C3H9BrSi
solvent | ethanol | C(C)O | C2H6O
product | ethyl 2(R)-amino-6-hydroxy-4-phosphonomethyl-hex-3-enoate | N[C@@H](C(=O)OCC)C=C(CCO)CP(=O)(O)O | C9H18NO6P
